US07371743B2
(b) methyl 3-chloro-4-(3,6-dihydro-[1,2]oxazin-2-yl)-benzoate
1.00 g (5.01 mmol) methyl 3-chloro-4-nitroso-benzoate are placed in 10 ml chloroform and a freshly prepared solution of 1.10 g (20.3 mmol) butadiene in 6 ml chloroform is added dropwise with stirring at 0° C. The reaction mixture is stirred for 30 minutes at 0-10° C. and for 16 hours at ambient temperature, evaporated down i. vac. and purified by chromatography on silica gel (eluant: petroleum ether/ethyl acetate=19:1).

reactant | methyl 3-chloro-4-nitroso-benzoate | 5.01 mmol, 1.00 g | ClC=1C=C(C(=O)OC)C=CC1N=O | C8H6ClNO3
reactant | butadiene | 20.3 mmol, 1.10 g | C=CC=C | C4H6
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 3-chloro-4-(3,6-dihydro-[1,2]oxazin-2-yl)-benzoate | ClC=1C=C(C(=O)OC)C=CC1N1OCC=CC1 | C12H12ClNO3
